US07935702B2
3. 7-(5-Fluoro-3-methylpyridin-2-yl)-N-(5-(trifluoromethyl)pyrimidin-2-yl)-1,8-naphthyridin-4-amine
Heat a mixture of 5-chloro-2-(5-fluoro-3-methylpyridin-2-yl)-1,8-naphthyridine (81 mg, 0.3 mmol), 2-amino-5-trifluoromethylpyrimidine (96 mg, 0.6 mmol), xantphos (16.9 mg), Pd2(dba)3 (27.9 mg) and Cs2CO3 (193 mg) in dioxane (2.0 mL) at 100° C. for 4 hours. Cool the mixture, concentrate under vacuum, dilute with EtOAc/water (5.0 mL each), filter through celite, wash celite with EtOAc (2×5 mL) and dry combined organic layers with MgSO4. Filter the dried extract and concentrate under vacuum to afford crude product. Purify by preparative HPLC to afford title compound as a yellow solid. 1H NMR (400 MHZ, DMSO-D6) δ 10.92 (s, 1H), 9.0 (s, 2H), 8.92 (d, 1H, J=2.2 Hz), 8.58 (s, 1H), 8.17(d, 1H, J=1.1 Hz), 8.09 (m, 1H), 7.8 (d, 1H, J=2.4 Hz), 2.69 (s, 3H). MS=401.31 (M+H). The IC50 determined as described in Example 6 is less than 1 micromolar.

reactant | 5-chloro-2-(5-fluoro-3-methylpyridin-2-yl)-1,8-naphthyridine | 0.3 mmol, 81 mg | ClC1=C2C=CC(=NC2=NC=C1)C1=NC=C(C=C1C)F | C14H9ClFN3
reactant | 2-amino-5-trifluoromethylpyrimidine | 0.6 mmol, 96 mg | NC1=NC=C(C=N1)C(F)(F)F | C5H4F3N3
reactant | xantphos | 16.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 193 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 27.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-(5-Fluoro-3-methylpyridin-2-yl)-N-(5-(trifluoromethyl)pyrimidin-2-yl)-1,8-naphthyridin-4-amine | FC=1C=C(C(=NC1)C1=CC=C2C(=CC=NC2=N1)NC1=NC=C(C=N1)C(F)(F)F)C | C19H12F4N6
